US04772705
To a stirred mixture of 14.0 g (0.08 mol) of 1-methyl-3-phenylpiperazine and 20 g (0.2 mol) of triethylamine in 160 ml of tetrahydrofuran was added dropwise a solution of 18.2 g (0.08 mol) of 4-chlorophenacyl bromide in 55 ml of chloroform. The resulting mixture was stirred at ambient temperature for 3.5 hours, poured into 50% aqueous sodium bicarbonate and extracted with chloroform. The organic extracts were combined, washed with water and saturated sodium chloride and dried over sodium sulfate. The filtrate was concentrated to dryness to give 25 g of crude 1-methyl-3-phenyl-4-(4-chlorophenacyl) piperazine. This material was used as such in the next step of the process.

reactant | 1-methyl-3-phenylpiperazine | 0.08 mol, 14.0 g | CN1CC(NCC1)C1=CC=CC=C1 | C11H16N2
reactant | triethylamine | 0.2 mol, 20 g | C(C)N(CC)CC | C6H15N
reactant | 4-chlorophenacyl bromide | 0.08 mol, 18.2 g | ClC1=CC=C(C(CBr)=O)C=C1 | C8H6BrClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
solvent | chloroform | 55 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-methyl-3-phenyl-4-(4-chlorophenacyl) piperazine | 25 g | CN1CC(N(CC1)CC(=O)C1=CC=C(C=C1)Cl)C1=CC=CC=C1 | C19H21ClN2O
